US08076324B2
4-Methoxy-4-(4-methanesulfonylphenyl)-1-phenylcyclohexanecarboxylic Acid
690 mg of 4-methoxy-4-(4-methylsulfanylphenyl)-1-phenylcyclohexanecarboxylic acid were dissolved in 30 ml of DCM and 865 mg of 3-chloroperbenzoic acid were added at room temperature. The reaction mixture was stirred at room temperature was for 5 h and 40 min. 60 ml of a saturated aqueous sodium sulfite solution were then added, the mixture was stirred for 15 min at room temperature, adjusted to pH=3 with a saturated aqueous sodium hydrogensulfate solution and extracted three times with 100 ml each of DCM. The combined extracts were dried over magnesium sulfate and the solvent was removed in vacuo. Chromatography of the residue on silica gel with MTB yielded 464 mg of the title compound as an amorphous solid.

reactant | 4-methoxy-4-(4-methylsulfanylphenyl)-1-phenylcyclohexanecarboxylic acid | 690 mg | COC1(CCC(CC1)(C(=O)O)C1=CC=CC=C1)C1=CC=C(C=C1)SC | C21H24O3S
reactant | 3-chloroperbenzoic acid | 865 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | 60 ml | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogensulfate | S(=O)(=O)(O)[O-].[Na+]
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-Methoxy-4-(4-methanesulfonylphenyl)-1-phenylcyclohexanecarboxylic Acid | 464 mg | COC1(CCC(CC1)(C(=O)O)C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)C | C21H24O5S
